US06046192
(2S)-2-(4-Benzyloxyphenyl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (2.50 g) was dissolved in tetrahydrofuran (31 ml), and borane-dimethyl-sulfide complex (1.76 ml) was added to the solution. After the mixture was heated under reflux for 4 hours, a solution of triethanolamine (4.62 g) in tetrahydrofuran (4.6 ml) was added to the reaction mixture and the mixture was heated under reflux for 11 hours. After cooling, water was poured into the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: ethyl acetate/ethanol=7/1) gave (1S)-1-(4-benzyloxy-phenyl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)amino]ethanol (1.63 g) as an amorphous.

reactant | (2S)-2-(4-Benzyloxyphenyl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 2.50 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H](C(=O)N[C@@H]1CC2=CC(=CC=C2CC1)O)O | C25H25NO4
reactant | triethanolamine | 4.62 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 31 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.6 ml | O1CCCC1 | C4H8O
product | (1S)-1-(4-benzyloxy-phenyl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)amino]ethanol | 1.63 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H](CN[C@@H]1CC2=CC(=CC=C2CC1)O)O | C25H27NO3
